US07291631B2
Using General Procedure B: Reaction of (4-Aminobutyl)-carbamic acid tert-butyl ester and (2-formylpyridin-3-yl)carbamic acid tert-butyl ester in MeOH with NaBH4 gave {2-[(4-tert-butoxycarbonylamino-butylamino)-methyl]-pyridin-3-yl}-carbamic acid tert-butyl ester as a clear residue. 1H NMR (CDCl3): δ 1.44 (s, 9H), 1.53 (s, 9H), 1.55 (m, 4H), 2.67 (m, 2H), 3.13 (m, 2H), 4.07 (s, 2H), 4.53 (m, 1H), 7.15 (dd, 1H, J=6, 3 Hz), 8.11 (dd, 1H, J=6, 3 Hz), 8.33 (d, 1H, J=9 Hz), 10.09 (s, 1H).

reactant | (4-Aminobutyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCN)=O | C9H20N2O2
reactant | (2-formylpyridin-3-yl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C(=NC=CC1)C=O)=O | C11H14N2O3
reactant | NaBH4 | [BH4-].[Na+]
solvent | MeOH | CO | CH4O
product | {2-[(4-tert-butoxycarbonylamino-butylamino)-methyl]-pyridin-3-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C(=NC=CC1)CNCCCCNC(=O)OC(C)(C)C)=O | C20H34N4O4
